US08664216B2
To a solution of (RS)-1-benzyl-4-[2-(1-hydroxy-ethyl)-phenyl]-piperidin-4-ol (3 g, 9.6 mmol) in tetrahydrofuran (30 ml) was added triethylamine (2.95 ml, 21.2 mmol), dimethylaminopyridine (120 mg, 0.96 mmol) and methanesulfonylchloride (0.84 ml, 10.6 mmol). The reaction mixture was refluxed for 3 hours, cooled to room temperature, quenched with water (15 ml) and ethylacetate (15 ml). The organic phase was dried over Na2SO4 and concentrated in vacuo to yield 2.95 g (quant.) of (RS)-1′-benzyl-3-methyl-3H-spiro[2-benzofuran-1,4′-piperidine] as an orange oil. MS m/e: 294 (M+H+).

reactant | (RS)-1-benzyl-4-[2-(1-hydroxy-ethyl)-phenyl]-piperidin-4-ol | 9.6 mmol, 3 g | C(C1=CC=CC=C1)N1CCC(CC1)(O)C1=C(C=CC=C1)C(C)O | C20H25NO2
reactant | triethylamine | 21.2 mmol, 2.95 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonylchloride | 10.6 mmol, 0.84 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | dimethylaminopyridine | 0.96 mmol, 120 mg | CN(C)C1=NC=CC=C1 | C7H10N2
product | (RS)-1′-benzyl-3-methyl-3H-spiro[2-benzofuran-1,4′-piperidine] | 2.95 g | C(C1=CC=CC=C1)N1CCC2(CC1)OC(C1=C2C=CC=C1)C | C20H23NO
